US20010016659A1
A mixture of 4-(3-carboxyphenoxy)-1-nitrobenzene (3.72 g, 14.4 mmol), EDCl-HCl (3.63 g, 18.6 mmol), N-methylmorpholine (1.6 mL, 14.5 mmol) and methylamine (2.0 M in THF; 8 mL, 16 mmol) in CH2C12 (45 mL) was stirred at room temp. for 3 d, then concentrated under reduced pressure. The residue was dissolved in EtOAc (50 mL) and the resulting mixture was extracted with a 1M HCl solution (50 mL). The aqueous layer was back-extracted with EtOAc (2×50 mL). The combined organic phases were washed with a saturated NaCl solution (50 mL), dried (Na2SO4), and concentrated under reduced pressure to give 4-(3-(N-methylcarbamoyl) phenoxy)-1-nitrobenzene as an oil (1.89 g).

reactant | 4-(3-carboxyphenoxy)-1-nitrobenzene | 14.4 mmol, 3.72 g | C(=O)(O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C13H9NO5
reactant | EDCl HCl | 18.6 mmol, 3.63 g | CCN=C=NCCCN(C)C.Cl.Cl
reactant | N-methylmorpholine | 14.5 mmol, 1.6 mL | CN1CCOCC1 | C5H11NO
reactant | methylamine | 16 mmol, 2.0 M, 8 mL | CN | CH5N
product | 4-(3-(N-methylcarbamoyl) phenoxy)-1-nitrobenzene | 1.89 g | CNC(=O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C14H12N2O4
